US04997942
20 g of the 2-fluoro-4-bromoanisole thus obtained and 9.8 g of copper cyanide were dissolved in 100 ml of dimethyl formamide and heated under reflux for ten hours. To the reaction mixture, was added an aqueous solution of 20 g of ferric chloride in 100 ml of water. The reaction mixture was allowed to cool to room temperature and the reaction product was extracted with toluene. The organic layer was successively washed with water, a saturated aqueous solution of sodium carbonate and a saturated aqueous solution of common salt. Then the organic layer was separated. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off. The residue was purified by silica gel column chromatography (developing solvent: hexane:ethyl acetate 10:1) and further recrystallized from ethanol. Thus 10.0 g of 3-fluoro-4-methoxybenzonitrile was obtained. Yield: 68%.

reactant | 2-fluoro-4-bromoanisole | 20 g | FC1=C(C=CC(=C1)Br)OC | C7H6BrFO
reactant | copper cyanide | 9.8 g | [Cu](C#N)C#N
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3-fluoro-4-methoxybenzonitrile | 10.0 g, Yield: 68% | FC=1C=C(C#N)C=CC1OC | C8H6FNO
